US04350817
1-Ethyl-1,2-Dihydro-4-Trifluoroacetylamino-2-Oxo-1,8-Naphthyridine-3-Carboxylic Acid Ethyl Ester
A stirred solution of 0.5 g. (0.002 mole) of 4-amino-1-ethyl-1,2-dihydro-2-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester in 20 ml. of trifluoroacetic anhydride was heated under reflux for 3 hours. The reaction solution was cooled in ice and filtered. There was obtained 0.3 g. of product, m.p. 195°-197° C.

reactant | 4-amino-1-ethyl-1,2-dihydro-2-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester | 0.002 mole | C(C)OC(=O)C=1C(N(C2=NC=CC=C2C1N)CC)=O | C13H15N3O3
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 1-Ethyl-1,2-Dihydro-4-Trifluoroacetylamino-2-Oxo-1,8-Naphthyridine-3-Carboxylic Acid Ethyl Ester | C(C)OC(=O)C=1C(N(C2=NC=CC=C2C1NC(C(F)(F)F)=O)CC)=O | C15H14F3N3O4
